US04748174
83 grams of diflunisal, dissolved in 500 ml ethanol, were added to an aqueous solution of 65 g meglumine, by stirring slowly and at room temperature (20° C.), and the reaction mixture was maintained under stirring for 4 hours until the reaction was complete. After cooling at 7° C., the resulting white precipitate was filtered and washed with small quantities of ethanol. After drying, 139 g of diflunisal meglumine were obtained as a white microcrystalline powder.

reactant | diflunisal | 83 grams | C1=CC(=C(C=C1C=2C=CC(=CC2F)F)C(=O)O)O | C13H8F2O3
reactant | meglumine | 65 g | N(C)C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | diflunisal meglumine | 139 g | C1=CC(=C(C=C1C=2C=CC(=CC2F)F)C(=O)O)O.N(C)C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | InChI=1S/C13H8F2O3.C7H17NO5/c14-8-2-3-9(11(15)6-8)7-1-4-12(16)10(5-7)13(17)18;1-8-2-4(10)6(12)7(13)5(11)3-9/h1-6,16H,(H,17,18);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
